* OPA838
*****************************************************************************
* (C) Copyright 2018 Texas Instruments Incorporated. All rights reserved.
*****************************************************************************
** This model is designed as an aid for customers of Texas Instruments.
** TI and its licensors and suppliers make no warranties, either expressed
** or implied, with respect to this model, including the warranties of 
** merchantability or fitness for a particular purpose.  The model is
** provided solely on an "as is" basis.  The entire risk as to its quality
** and performance is with the customer.
*****************************************************************************
*
** Released by: WEBENCH(R) Design Center, Texas Instruments Inc.
* Part: OPA838
* Date: 06/29/2018 
* Model Type: All In One
* Simulator: TINA 
* Simulator Version: 9.0
* EVM Order Number: N/A 
* EVM Users Guide:  N/A 
* Datasheet: Rev2 Nov16, 2016
*
*****************************************************************************
* Notes:
* The following parameters are modeled: Aol,GBW,PM,
* Closed loop f_3db, peaking, Zincm,Zindiff,Vnoise, Inoise, 
* PSRR,CMRR,Vos,Ib,Ios,Vos drift, Ib drift ,Ios drift , Isc,
* VOH,VOL,Zool,Zocl,Slew Rate,VIH,VIL, quiscent current,recovery time.  
*****************************************************************************

.subckt OPA838 VOUT VS- VIN+ VIN- PDBAR VS+  
XI0 VS- VS+ VIN- VIN+ VOUT PDBAR VFA
.ends 

.subckt VFA VEE VCC VINM VINP VOUT PD
XI0 VEE VCC VINM VINP VOUT PD VFA_HT5

XI5 NET35 VINP DiodeIdeal
V0 NET35 NET38 700e-3
XI6 NET33 NET38 DiodeIdeal
V1 NET33 VINM 700e-3

XI8 NET030 VINM DiodeIdeal
V3 NET030 NET023 700e-3
XI7 NET032 NET023 DiodeIdeal
V2 NET032 VINP 700e-3

.ends




.subckt ESDDIODES VCC VEE VIN VOUT PARAMS: VESDL=-700e-3 VESDH=-700e-3
XIDVIH NET12 NET16 DiodeIdeal
XIDVIL NET16 NET20 DiodeIdeal
R0 VIN NET16  1e-3
V0 NET16 VOUT 0
VESDL NET20 VEE {VESDL} 
VESDH VCC NET12 {VESDH} 
.ends ESDDIODES

.subckt VINRANGE3 SIGNAL1 SIGNAL2 VCC VEE VINM VINP PARAMS: SignalGain=1 VIL=100e-3 VIH=100e-3
XIDVIL NET13 NET074 DiodeIdeal
XIDVIH NET076 NET13 DiodeIdeal
FVIL2 SIGNAL2 VEE VIL   {SignalGain} 
FVIL1 SIGNAL1 VEE VIL   {SignalGain} 
FVIH1 VCC SIGNAL1 VIH   {SignalGain} 
FVIH2 VCC SIGNAL2 VIH   {SignalGain} 
E1 NET8 0 VINM 0 1
E0 NET6 0 VINP 0 1
VIL NET074 VEE {VIL} 
VIH VCC NET076 {VIH} 
R7 NET8 NET13  1
R6 NET6 NET13  1
.ends VINRANGE3

.subckt ZIN IN1 IN2 OUT1 OUT2 PARAMS: R5=100e-3 R4=100e-3 C3=50e-15 C2=50e-15
+ C1=50e-15 R2=10e9 R1=10e9 R3=1e9

R5 IN2 OUT2   {R5} 
R4 IN1 OUT1   {R4} 
C3 OUT1 OUT2   {C3} 
C2 OUT2 0   {C2} 
C1 OUT1 0   {C1} 
GR2 OUT2 0 OUT2 0  {1/R2} 
GR1 0 OUT1 0 OUT1  {1/R1} 
GR3 OUT1 OUT2 OUT1 OUT2  {1/R3} 
.ends ZIN

.subckt DOMPOLE A B C PARAMS: R2=1e-3 R1=2.653e6 C2=1e-15 C1=10e-12
R2 NET7 A   {R2} 
R1 B A   {R1} 
C2 NET7 C   {C2} 
C1 A B   {C1} 
.ends DOMPOLE

.subckt PHASEDELAY A B VIN VOUT PARAMS: R1=1 R2=1e9 C1=1e-15 C2=1e-15 Gain=1 L=1e-12
R5 VOUT NET026  1e-3
R3 NET15 NET024  1e-3
R1 NET27 NET15   {R1} 
R4 NET15 A  1e9
R2 VOUT B   {R2} 
C1 NET024 A   {C1} 
C2 NET026 B   {C2} 
E0 NET27 0 VIN 0  {Gain} 
L0 NET15 VOUT  {L} 
.ends PHASEDELAY

.subckt NONDOMPOLE C VIN VOUT PARAMS: L=1e-12 Gain=1 C=226.7e-12 Rp=1e9 Rs=1
L0 NET020 VOUT  {L} 
E0 NET4 0 VIN 0  {Gain} 
C1 NET019 C   {C} 
R3 VOUT C   {Rp} 
R2 VOUT NET019  1e-3
R1 NET020 NET4   {Rs} 
.ends NONDOMPOLE

.subckt ANALOG_BUFFER VOUT VIN
R0 VIN 0  1e9
R1 VOUT 0  1e9
E0 VOUT 0 VIN 0 1
.ends ANALOG_BUFFER

.subckt OUTPUTCIR PD VCC VCCMAIN VEE VEEMAIN VIN VOUT
XI25 NET75 NET092 OutputCir_IscDiodeIdeal PARAMS: IS=10e-15 N=50e-3
XI23 NET79 NET76 OutputCir_IscDiodeIdeal PARAMS: IS=10e-15 N=50e-3

*XIVOL VOL VEE VIMONINV OutputCir_VOHVOL PARAMS: VSUPPLYREF=0 VOUTvsIOUT_X1=
*+ {ABS(0)}  VOUTvsIOUT_Y1=0.1 VOUTvsIOUT_X2= {ABS(-19e-3)}  VOUTvsIOUT_Y2=0.131
*+ 
*XIVOH VCC VOH VIMON OutputCir_VOHVOL PARAMS: VSUPPLYREF=5 VOUTvsIOUT_X1= {ABS(0)}
*+ VOUTvsIOUT_Y1=4.9 VOUTvsIOUT_X2= {ABS(17e-3)}  VOUTvsIOUT_Y2=4.59


*XISOURCEVLIMIT NET064 NET76 VCC VEE OutputCir_IscVlimit PARAMS: RIsc=1 IscVsVsupply_X1=3
*+ IscVsVsupply_Y1= {ABS(37.5e-3)}  IscVsVsupply_X2=5 IscVsVsupply_Y2= {ABS(37.5e-3)}
*+ 
*XISINKVLIMIT NET047 NET092 VCC VEE OutputCir_IscVlimit PARAMS: RIsc=1 IscVsVsupply_X1=3
*+ IscVsVsupply_Y1= {ABS(-50e-3)}  IscVsVsupply_X2=5 IscVsVsupply_Y2= {ABS(-50e-3)}
*+


XIVOH VCC VOH VIMON OutputCir_VOH
XIVOL VOL VEE VIMONINV OutputCir_VOL


XI14 NET070 NET15 DiodeIdeal
XI15 NET068 VOL DiodeIdeal
XI0 VCCMAIN VEEMAIN VIMON PD OutputCir_ILOAD
XI6 NET22 NET0100 0 NET043 VCC VEE RECOVERYSIGNAL OutputCir_RecoveryAssist
XAHDLI43 NET055 NET054 RECOVERYSIGNAL VCC VEE HPA_OR2
XAHDLI41 VOUT NET067 NET055 VCC VEE HPA_COMP_IDEAL
XAHDLI42 NET059 VOUT NET054 VCC VEE HPA_COMP_IDEAL
HVIMONINV VIMONINV 0 VCURSINKDETECT  1
HVIMON VIMON 0 VCURSOURCEDETECT  1
RVIMONINV VIMONINV 0  1e9
RVIMON VIMON 0  1e9
RISC NET092 NET15  1
XI11 NET76 NET15 ANALOG_BUFFER
XI2 NET22 VIN ANALOG_BUFFER
VPROBE3 NET070 VOH 0
VPROBE2 NET043 NET0100 0
VTRIGGERVOL NET059 VOL 10e-3
VTRIGGERVOH VOH NET067 10e-3
V3 NET79 NET047 0
V4 NET75 NET064 0
VPROBE4 NET068 NET15 0
VCURSOURCEDETECT NET15 NET34 0
VCURSINKDETECT VOUT NET34 0
VPROBE1 NET53 NET17 0
XI1 NET53 NET22 VIMON OutputCir_Rout PARAMS: Ro_Iout_0A=3.76e+05 RIsc=1 Isc=37.5e-3 Islope_const=10u 
COUT NET22 NET0100 40e-6
ROUTMINOR NET0100 NET17  5.7354
LOUT1 NET17 NET092B 300e-9
LOUT2 NET092B NET092 100e-9
CBYP NET17 NET092A 100e-12
RBYP NET092A NET092B 150
RP NET092 NET0146  103
CP NET0146 0  2.7e-12
.ends OUTPUTCIR


.SUBCKT OutputCir_VOH A B C
E1 A B TABLE { V(C) } = 
+ (0,	0.1)
+ (0.004398167,	0.101)
+ (0.004990522,	0.115)
+ (0.005727892,	0.132)
+ (0.006644229,	0.152)
+ (0.007775451,	0.177)
+ (0.009165461,	0.208)
+ (0.010861992,	0.246)
+ (0.012924627,	0.291)
+ (0.015409226,	0.345)
+ (0.018368556,	0.410)
+ (0.021854651,	0.486)
+ (0.025888259,	0.575)
+ (0.030440626,	0.679)
+ (0.035458333,	0.798)
+ (37.5m, 1)
+ (38.5m, 2)
+ (40.0m, 3)
+ (41.0m, 4)
+ (42.0m, 5)

.ENDS


.SUBCKT OutputCir_VOL A B C
E1 A B TABLE { V(C) } =
+ (0,	0.027)
+ (0.004533833,	0.027)
+ (0.005164196,	0.032)
+ (0.005957685,	0.037)
+ (0.006949841,	0.044)
+ (0.008193846,	0.052)
+ (0.009749299,	0.062)
+ (0.011686039,	0.075)
+ (0.014100656,	0.090)
+ (0.017096732,	0.109)
+ (0.020820626,	0.131)
+ (0.025392196,	0.160)
+ (0.030998669,	0.195)
+ (0.037762424,	0.241)
+ (0.045708333,	0.306)
+ (47.5m, 0.5000)
+ (50.0m, 1.0000)
+ (51.0m, 2.0000)
+ (52.0m, 3.0000)
+ (53.0m, 4.0000)
+ (54.0m, 5.0000)

.ENDS


.subckt RECOVERYCIRCUIT A B VCC VEE PARAMS: VRecL=-10e-3 VRecH=-10e-3
XI2 NET8 NET014 DiodeIdeal
XI3 NET014 NET9 DiodeIdeal
VBRIDGE NET014 A 0
VPROBE A B 0
VRECL NET9 VEE {VRecL} 
VRECH VCC NET8 {VRecH} 
.ends RECOVERYCIRCUIT

.subckt VFA_HT5 VEE VCC VINM VINP VOUT PD

***step1
*Rincm=R1=R2,Cincm=C1=C2,Rindiff=R3,Cindiff=C3
XI53 VINP VINM NET1 NET2 ZIN PARAMS: R5=100e-3 R4=100e-3
+ C3=0.8e-12 C2=1.3e-12 C1=1.3e-12 R2=100e3 R1=100e3 R3=50e3
XI17 NET1 NET11 Vnoise PARAMS: X=0.01 Y=191.1e-9 Z=1.9e-9
XI18 NET11 0 Inoise PARAMS: X=0.01 Y=131e-12 Z=1.3e-12
XI63 NET2 0 Inoise  PARAMS: X=0.01 Y=131e-12 Z=1.3e-12
XI59 NET21 NET11 Vinoffset PARAMS: TA=25 VOS=15e-6 DRIFT=0.3e-6
XI60 VINP_INT VINM_INT Ibias PARAMS: Choice=1 Ibias=-1.8e-6 Ioffset=10e-9 TA=25
+ IbiasDrift=10e-9 IoffsetDrift=10e-12 Ibiasp=-1.795e-6 Ibiasm=-1.805e-6
XI40 VCC VEE POWER VEE_INT VCC_INT Iq PARAMS: IOFF=2e-6 ION_X1=0 ION_Y1=0.95e-3
+ ION_X2=1.8 ION_Y2=0.95e-3 ION_X3=3.3 ION_Y3=0.95e-3 ION_X4=5.5 ION_Y4=0.95e-3

***step2
XI19 VCC_INT VEE_INT NET2 NET12 PSRR PARAMS: PSRRP_DC=-120 PSRRP_f3dB=10.03e3
+ PSRRN_DC=-120 PSRRN_f3dB=10.08e3
XI66 HIGHZ NET56 VCC_INT VEE_INT NET22 NET21 VINRANGE3 PARAMS: SignalGain=1 VIL=-0.2 VIH=1.2
*Isc-source and sink current

***step3 & step4
XI21 NET12 NET22 NET12 CMRR PARAMS: CMRR_DC=-106 CMRR_f3dB=10e3 CMRR_f3dB_FudgeFactor=1
XI52 VINP_INT VINM_INT NET32 NET31 VEE_INT VCC_INT POWER GmItail PARAMS: Choice=11
+ Gm=9.021e-1 SBF=1 ITAILMAX_X1=3 ITAILMAX_Y1=100e-3 ITAILMAX_X2=5 ITAILMAX_Y2=100e-3
+ ITAILMIN_X1=3 ITAILMIN_Y1=100e-3 ITAILMIN_X2=5 ITAILMIN_Y2=100e-3
XI58 HIGHZ NET32 0 DOMPOLE PARAMS: R2=1e-3 C2=1e-15 R1=2.482e6 C1=4.985e-10

**The Gain = VCVS3 Gain, RS=R10, L=L1, C=C2, Rp=R13
XI26 0 NET51 NET61 NONDOMPOLE PARAMS: Gain=1.18 Rs=60 L=53.2e-9 C=1.7e-12 Rp=340

**The Gain=VCVS2 gain, R1=R4, C1=C3, L=L3, C2=C4, R2=R6 
XI85 0 0 NET61 NET71 PHASEDELAY PARAMS: R1=10 C1=21.55e-12 L=6.2e-9 C2=140.7e-12 R2=10 Gain=2
*VOH and VOL

***step5
XI30 POWER VCC_INT VCC VEE_INT VEE NET71 VOUT OUTPUTCIR

***step7
XI28 NET41 NET51 VCC_INT VEE_INT RECOVERYCIRCUIT PARAMS: VRecL=-0.1 VRecH=-0.1

***

XI67 VCC_INT VEE_INT NET21 VINP_INT ESDDIODES PARAMS: VESDL=-700e-3 VESDH=-700e-3
XI68 VCC_INT VEE_INT NET22 VINM_INT ESDDIODES PARAMS: VESDL=-700e-3 VESDH=-700e-3
VPROBE2 HIGHZ NET41
VDOMPOLEBIAS NET32 0 0
VPROBE1 NET31 HIGHZ
R0 NET56 0  1e3
R14 VCC_INT PD  10e6
XAHDLINV3 PD PDINV VCC_INT VEE_INT HPA_INV_IDEAL
XAHDLINV1 PDINV POWER VCC_INT VEE_INT HPA_INV_IDEAL
XI13 VEE_INT VEE ANALOG_BUFFER
XI12 VCC_INT VCC ANALOG_BUFFER
.ends VFA_HT5

.SUBCKT HPA_OR2 1 2 3 VDD VSS
E1 4 0 VALUE={IF(((V(1)<(V(VDD)+V(VSS))/2 ) & (V(2)<(V(VDD)+V(VSS))/2 )),V(VSS),V(VDD))}
R1 4 3 1
C1 3 0 1e-12
.ENDS

.SUBCKT HPA_INV_IDEAL 1 2 VDD VSS
E1 2 0 VALUE = { IF( V(1)> (V(VDD)+V(VSS))/2, V(VSS), V(VDD) ) }
.ENDS

.SUBCKT HPA_COMP_IDEAL INP INN OUT VDD VSS
E1 OUT 0 VALUE = { IF( (V(INP) > V(INN)), V(VDD), V(VSS) ) }
.ENDS

.SUBCKT AVG VIN1 VIN2 VOUT
E1 VOUT 0 VALUE = { ( V(VIN1) + V(VIN2) ) / 2 }
.ENDS

.SUBCKT CMRR A B C PARAMS:

+ CMRR_DC 	        = -100
+ CMRR_f3dB             = 50e3
+ CMRR_f3dB_FudgeFactor = 3.4

.PARAM CMRR       = {0-CMRR_DC}
.PARAM FCMRR	  = {CMRR_f3dB * CMRR_f3dB_FudgeFactor}

X1 A B C 0 CMRR_NEW PARAMS: CMRR = {CMRR} FCMRR = {FCMRR}
.ENDS

.SUBCKT DiodeIdeal NEG POS
G1 POS NEG VALUE = { IF ( V(POS,NEG) <= 0 , 0, V(POS,NEG)*0.01G ) }
R0 POS NEG 1000G
.ENDS


.SUBCKT DomPoleBias VIN1 VIN2 VOUT
E1 VOUT 0 VALUE = { ( V(VIN1) + V(VIN2) ) / 2 * 1/2}
R1 VOUT 0 1G
.ENDS


.SUBCKT GmItail  Vinp Vinm Ioutp Ioutm VEE VCC PD PARAMS:
+ Choice 	= 2

+ Gm 	        = 3.77e-2
+ SBF		= 1 

+ ITAILMAX_X1 	= { 3.0 }
+ ITAILMAX_Y1 	= { 10m }

+ ITAILMAX_X2 	= { 5.0 }
+ ITAILMAX_Y2 	= { 10m }

+ ITAILMIN_X1 	= { 3.0 }
+ ITAILMIN_Y1 	= { 10m }

+ ITAILMIN_X2 	= { 5.0 }
+ ITAILMIN_Y2 	= { 10m }

.PARAM Choice1 		= { IF ( Choice == 1,  1, 0 ) }
.PARAM Choice2 		= { IF ( Choice == 2,  1, 0 ) }
.PARAM Choice3		= { IF ( Choice == 3,  1, 0 ) }
.PARAM Choice11 	= { IF ( Choice == 11, 1, 0 ) }

X1 PD PDINV VCC VEE LOGIC1 0 DLSINV
VLOGIC1 LOGIC1 0 1

.PARAM ITAILMAX_SLOPE = 
+ { ( ITAILMAX_Y2 - ITAILMAX_Y1 ) / ( ITAILMAX_X2 - ITAILMAX_X1 ) }
.PARAM ITAILMAX_INTCP = 
+ { ITAILMAX_Y1 - ITAILMAX_SLOPE * ITAILMAX_X1 }

EITAILMAX ITAILMAX 0 VALUE = 
+ { ITAILMAX_SLOPE * V(VCC,VEE) + ITAILMAX_INTCP  }

.PARAM ITAILMIN_SLOPE = 
+ { ( ITAILMIN_Y2 - ITAILMIN_Y1 ) / ( ITAILMIN_X2 - ITAILMIN_X1 ) }
.PARAM ITAILMIN_INTCP = 
+ { ITAILMIN_Y1 - ITAILMIN_SLOPE * ITAILMIN_X1 }

EITAILMIN ITAILMIN 0 VALUE = 
+ { ITAILMIN_SLOPE * V(VCC,VEE) + ITAILMIN_INTCP  }

G1 IOUTP IOUTM VALUE = { ( 1-V(PDINV) ) * (
+ Choice1  * ( LIMIT ( Gm * V(VINP,VINM) , -V(ITAILMIN), V(ITAILMAX) ) ) +
+ Choice2  * ( Gm * (V(ITAILMAX)/Gm) * TANH( V(VINP,VINM) / (V(ITAILMAX)/Gm) )   ) +	
+ Choice3  * ( Gm * V(VINP,VINM) / ( 1 + Gm/V(ITAILMAX) * ABS( V(VINP,VINM) ) ) ) +              		
+ Choice11 * ( LIMIT ( ( Gm * EXP ( LIMIT ( SBF * ABS(V(VINP,VINM)) , -LOG(1E100), LOG(1E100) ) ) ) 
+                     * V(VINP,VINM) , -V(ITAILMIN), V(ITAILMAX) ) ) +
+ 0					   )	}

.ENDS

.SUBCKT Ibias VINP VINM PARAMS:
+ Choice       = 1

+ Ibias        = -10u
+ Ioffset      = 150n

+ TA           = 25
+ IbiasDrift   = 0
+ IoffsetDrift = 0

+ Ibiasp       =  -9.925u
+ Ibiasm       = -10.075u

.PARAM Choice1 = { IF ( Choice == 1, 1, 0 ) }
.PARAM Choice2 = { IF ( Choice == 2, 1, 0 ) }

.PARAM Ib = { Choice1 * Ibias   + Choice2 * (Ibiasp + Ibiasm)/2  }
.PARAM Io = { Choice1 * Ioffset + Choice2 * ABS(Ibiasp - Ibiasm) } 

EIb Ib 0 VALUE = { IbiasDrift   * TEMP + ( Ib - IbiasDrift   * TA ) }
EIo Io 0 VALUE = { IoffsetDrift * TEMP + ( Io - IoffsetDrift * TA ) }

GIbp VINP 0 VALUE = { V(Ib) + V(Io)/2 }
GIbm VINM 0 VALUE = { V(Ib) - V(Io)/2 }

.ENDS

.SUBCKT Inoise A B PARAMS:
+ X = { 1m  }
+ Y = { 100f }
+ Z = { 1f }
X1 A B FEMT PARAMS: NLFF = { Y/1f }  FLWF = { X } NVRF = { Z/1f }
.ENDS

.subckt Iq VCCmain VEEmain PD VEE VCC PARAMS:
+ IOFF = { 1n }

+ ION_X1 = { 0.0 }
+ ION_Y1 = { 1m }

+ ION_X2 = { 1.6 }
+ ION_Y2 = { 1m }

+ ION_X3 = { 1.9 }
+ ION_Y3 = { 1m }

+ ION_X4 = { 12.0 }
+ ION_Y4 = { 1m }

EION_SEG1 ION_SEG1 0 VALUE = { IF ( 		          V(VCC,VEE) <= ION_X2, 1, 0 ) }
EION_SEG2 ION_SEG2 0 VALUE = { IF ( V(VCC,VEE) > ION_X2 & V(VCC,VEE) <= ION_X3, 1, 0 ) }
EION_SEG3 ION_SEG3 0 VALUE = { IF ( V(VCC,VEE) > ION_X3		              , 1, 0 ) }

.PARAM ION_SEG1_SLOPE = { ( ION_Y2 - ION_Y1 ) / ( ION_X2 - ION_X1 ) }
.PARAM ION_SEG1_INTCP = { ION_Y1 - ION_SEG1_SLOPE * ION_X1 }

.PARAM ION_SEG2_SLOPE = { ( ION_Y3 - ION_Y2 ) / ( ION_X3 - ION_X2 ) }
.PARAM ION_SEG2_INTCP = { ION_Y2 - ION_SEG2_SLOPE * ION_X2 }

.PARAM ION_SEG3_SLOPE = { ( ION_Y4 - ION_Y3 ) / ( ION_X4 - ION_X3 ) }
.PARAM ION_SEG3_INTCP = { ION_Y3 - ION_SEG3_SLOPE * ION_X3 }

EION ION 0 VALUE = { 	V(ION_SEG1) * ( ION_SEG1_SLOPE * V(VCC,VEE) + ION_SEG1_INTCP ) +
+			V(ION_SEG2) * ( ION_SEG2_SLOPE * V(VCC,VEE) + ION_SEG2_INTCP ) +
+ 			V(ION_SEG3) * ( ION_SEG3_SLOPE * V(VCC,VEE) + ION_SEG3_INTCP ) 	}

X1 PD PDINV VCC VEE LOGIC1 0 DLSINV
VLOGIC1 LOGIC1 0 1

G1 VCCMAIN VEEMAIN VALUE = { V(ION) * ( 1-V(PDINV) ) + IOFF * V(PDINV) }  
.ends

.SUBCKT OutputCir_ILOAD  VDD VSS VIMON PD
X1 PD PDINV VDD VSS LOGIC1 0 DLSINV
VLOGIC1 LOGIC1 0 1
G1 VDD 0 VALUE = {IF(V(VIMON) >= 0, V(VIMON)*( 1-V(PDINV) ), 0)}
G2 VSS 0 VALUE = {IF(V(VIMON)  < 0, V(VIMON)*( 1-V(PDINV) ), 0)}
.ENDS

.SUBCKT OutputCir_IscDiodeIdeal NEG POS PARAMS: 
+ IS = 1E-14
+ N  = 50m

G1 POS NEG_INT VALUE = { IF ( V(POS,NEG_INT) <= 0 , IS,  
+                             IS * ( EXP ( V(POS,NEG_INT)/25m * 1/N ) - 0 )  ) }  
V1 NEG_INT NEG {-N*0.8}
.ENDS

.SUBCKT OutputCir_IscVlimit A B VCC VEE PARAMS:
+RIsc 		 = { 1 }

+IscVsVsupply_X1 = { 3.0 }
+IscVsVsupply_Y1 = { 75m }

+IscVsVsupply_X2 = { 5.0 }
+IscVsVsupply_Y2 = { 100m }

.PARAM IscVsVsupply_SLOPE = 
+ { ( IscVsVsupply_Y2 - IscVsVsupply_Y1 ) / ( IscVsVsupply_X2 - IscVsVsupply_X1 ) }
.PARAM IscVsVsupply_INTCP = 
+ { IscVsVsupply_Y1 - IscVsVsupply_SLOPE * IscVsVsupply_X1 }

EIscVsVsupply IscVsVsupply 0 VALUE = 
+ { IscVsVsupply_SLOPE * V(VCC,VEE) + IscVsVsupply_INTCP  }

E1 A B VALUE = { V(IscVsVsupply) * RIsc }
.ENDS

.SUBCKT OutputCir_RecoveryAssist  VINP VINM IOUTP IOUTM VCC VEE RecoverySignal
X1 RecoverySignal RS VCC VEE LOGIC1 0 DLS
VLOGIC1 LOGIC1 0 1
G1 IOUTP IOUTM VALUE = { LIMIT ( 1m * V(VINP,VINM) *  V(RS) , -100m, 100m ) }
.ENDS

.SUBCKT OutputCir_Rout B A VIMON PARAMS:
+ Ro_Iout_0A = 100
+ RIsc = 1
+ Isc = 100m
+ Islope_const = 1/100

.PARAM Islope = { Islope_const * Isc }

G1 A B VALUE = { V(A,B) * 1 / ( (Ro_Iout_0A - RIsc) * Islope / ( Islope + ABS(V(VIMON)) ) )   }
.ENDS

.SUBCKT OutputCir_VOHVOLDiodeIdeal NEG POS
G1 POS NEG VALUE = { IF ( V(POS,NEG) <= 0 , 0, V(POS,NEG)*0.01G ) }
R0 POS NEG 1000G
.ENDS

.SUBCKT OutputCir_VOHVOL A B C  PARAMS:
+ VSUPPLYREF    = {2.5} 

+ VOUTvsIOUT_X1 = { ABS(0) }
+ VOUTvsIOUT_Y1 = { 2.4 }

+ VOUTvsIOUT_X2 = { ABS(100m) }
+ VOUTvsIOUT_Y2 = { 2.1 }

.PARAM VDROPvsIOUT_X1 = { VOUTvsIOUT_X1 }
.PARAM VDROPvsIOUT_Y1 = { ABS(VSUPPLYREF-VOUTvsIOUT_Y1) }

.PARAM VDROPvsIOUT_X2 = { VOUTvsIOUT_X2 }
.PARAM VDROPvsIOUT_Y2 = { ABS(VSUPPLYREF-VOUTvsIOUT_Y2) }

.PARAM VDROPvsIOUT_SLOPE = 
+ { ( VDROPvsIOUT_Y2 - VDROPvsIOUT_Y1 ) / ( VDROPvsIOUT_X2 - VDROPvsIOUT_X1 ) }
.PARAM VDROPvsIOUT_INTCP = 
+ { VDROPvsIOUT_Y1 - VDROPvsIOUT_SLOPE * VDROPvsIOUT_X1 }

EVDROPvsIOUT VDROPvsIOUT 0 VALUE = 
+ { VDROPvsIOUT_SLOPE * V(C) + VDROPvsIOUT_INTCP  }
E1 A B VALUE = { V(VDROPvsIOUT) }
.ENDS

.SUBCKT PSRR VDD VSS A B PARAMS:

+ PSRRP_DC    = -100
+ PSRRP_f3dB  = 100k

+ PSRRN_DC    = -90
+ PSRRN_f3dB  = 90k

.PARAM PSRRP       = {0-PSRRP_DC}
.PARAM PSRRN       = {0-PSRRN_DC}
.PARAM FPSRRP      = {PSRRP_f3dB}
.PARAM FPSRRN      = {PSRRN_f3dB}

X1 VDD VSS A B 0 PSRR_DUAL_NEW PARAMS:
+ PSRRP = {PSRRP} FPSRRP = {FPSRRP}
+ PSRRN = {PSRRN} FPSRRN = {FPSRRN}
.ENDS

.SUBCKT RecoveryCircuit_DiodeIdeal NEG POS
G1 POS NEG VALUE = { IF ( V(POS,NEG) <= 0 , 0, V(POS,NEG)*0.01G ) }
R0 POS NEG 1000G
.ENDS

.SUBCKT Vinoffset POS NEG PARAMS: 
+ TA     = 25
+ VOS    = 500u
+ DRIFT  = 10u 

E1 POS NEG VALUE = { DRIFT * TEMP + ( VOS - DRIFT * TA     ) }
.ENDS

.SUBCKT Vinrange_DiodeIdeal NEG POS
G1 POS NEG VALUE = { IF ( V(POS,NEG) <= 0 , 0, V(POS,NEG)*100k ) }
R0 POS NEG 1000G
.ENDS

.SUBCKT Vnoise A B PARAMS:
+ X = { 1m  }
+ Y = { 100n }
+ Z = { 5n  }
X1 A B VNSE PARAMS: NLF = { Y/1n } FLW = { X }  NVR = { Z/1n }
.ENDS

.SUBCKT VNSE  1 2 PARAMS: NLF = 10 FLW = 4  NVR = 4.6
.PARAM GLF={PWR(FLW,0.25)*NLF/1164}
.PARAM RNV={1.184*PWR(NVR,2)}
.MODEL DVN D KF={PWR(FLW,0.5)/1E11} IS=1.0E-16
I1 0 7 10E-3
I2 0 8 10E-3
D1 7 0 DVN
D2 8 0 DVN
E1 3 6 7 8 {GLF}
R1 3 0 1E9
R2 3 0 1E9
R3 3 6 1E9
E2 6 4 5 0 10
R4 5 0 {RNV}
R5 5 0 {RNV}
R6 3 4 1E9
R7 4 0 1E9
E3 1 2 3 4 1
C1 1 0 1E-15
C2 2 0 1E-15
C3 1 2 1E-15
.ENDS

.SUBCKT FEMT  1 2 PARAMS: NLFF = 0.1 FLWF = 0.001 NVRF = 0.1
.PARAM GLFF={PWR(FLWF,0.25)*NLFF/1164}
.PARAM RNVF={1.184*PWR(NVRF,2)}
.MODEL DVNF D KF={PWR(FLWF,0.5)/1E11} IS=1.0E-16
I1 0 7 10E-3
I2 0 8 10E-3
D1 7 0 DVNF
D2 8 0 DVNF
E1 3 6 7 8 {GLFF}
R1 3 0 1E9
R2 3 0 1E9
R3 3 6 1E9
E2 6 4 5 0 10
R4 5 0 {RNVF}
R5 5 0 {RNVF}
R6 3 4 1E9
R7 4 0 1E9
G1 1 2 3 4 1E-6
C1 1 0 1E-15
C2 2 0 1E-15
C3 1 2 1E-15
.ENDS

.SUBCKT PSRR_SINGLE   VDD  VSS  VI  VO  GNDF PARAMS: PSRR = 130 FPSRR = 1.6
.PARAM PI = 3.141592
.PARAM RPSRR = 1
.PARAM GPSRR = {PWR(10,-PSRR/20)/RPSRR}
.PARAM LPSRR = {RPSRR/(2*PI*FPSRR)}
G1  GNDF 1 VDD VSS {GPSRR}
R1  1 2 {RPSRR}
L1  2 GNDF {LPSRR}
E1  VO VI 1 GNDF 1
C2  VDD VSS 10P
.ENDS

.SUBCKT PSRR_SINGLE_NEW   VDD  VSS  VI  VO  GNDF PARAMS: PSRR = 130 FPSRR = 1.6
.PARAM PI = 3.141592
.PARAM RPSRR = 1
.PARAM GPSRR = {PWR(10,-PSRR/20)/RPSRR}
.PARAM LPSRR = {RPSRR/(2*PI*FPSRR)}
G1  GNDF 1 VDD VSS {GPSRR}
R1  1 2 {RPSRR}
L1  2 GNDF {LPSRR}

EA  101 GNDF 1 GNDF 1
GRA  101 102 VALUE = { V(101,102)/1e6 }
CA  102 GNDF 1e3
EB  1 1a VALUE = {V(102,GNDF)}

E1  VO VI 1a GNDF 1
C2  VDD VSS 10P
.ENDS

.SUBCKT PSRR_DUAL   VDD  VSS  VI  VO  GNDF 
+ PARAMS: PSRRP = 130 FPSRRP = 1.6
+ PSRRN = 130 FPSRRN = 1.6
.PARAM PI = 3.141592
.PARAM RPSRRP = 1
.PARAM GPSRRP = {PWR(10,-PSRRP/20)/RPSRRP}
.PARAM LPSRRP = {RPSRRP/(2*PI*FPSRRP)}
.PARAM RPSRRN = 1
.PARAM GPSRRN = {PWR(10,-PSRRN/20)/RPSRRN}
.PARAM LPSRRN = {RPSRRN/(2*PI*FPSRRN)}
G1  GNDF 1 VDD GNDF {GPSRRP}
R1  1 2 {RPSRRP}
L1  2 GNDF {LPSRRP}

G2  GNDF 3 VSS GNDF {GPSRRN}
R2  3 4 {RPSRRN}
L2  4 GNDF {LPSRRN}

E1  VO VI VALUE = {V(1,GNDF) + V(3,GNDF)}
C3  VDD VSS 10P
.ENDS

.SUBCKT PSRR_DUAL_NEW   VDD  VSS  VI  VO  GNDF 
+ PARAMS: PSRRP = 130 FPSRRP = 1.6
+ PSRRN = 130 FPSRRN = 1.6
.PARAM PI = 3.141592
.PARAM RPSRRP = 1
.PARAM GPSRRP = {PWR(10,-PSRRP/20)/RPSRRP}
.PARAM LPSRRP = {RPSRRP/(2*PI*FPSRRP)}
.PARAM RPSRRN = 1
.PARAM GPSRRN = {PWR(10,-PSRRN/20)/RPSRRN}
.PARAM LPSRRN = {RPSRRN/(2*PI*FPSRRN)}

G1  GNDF 1 VDD GNDF {GPSRRP}
R1  1 2 {RPSRRP}
L1  2 GNDF {LPSRRP}

EA  101 GNDF 1 GNDF 1
GRA  101 102 VALUE = { V(101,102)/1e6 }
CA  102 GNDF 1e3
EB  1 1a VALUE = {V(102,GNDF)}

G2  GNDF 3 VSS GNDF {GPSRRN}
R2  3 4 {RPSRRN}
L2  4 GNDF {LPSRRN}

EC  301 GNDF 3 GNDF 1
GRC  301 302 VALUE = { V(301,302)/1e6 }
CC  302 GNDF 1e3
ED  3 3a VALUE = {V(302,GNDF)}

E1  VO VI VALUE = {V(1a,GNDF) + V(3a,GNDF)}
C3  VDD VSS 10P
.ENDS

.SUBCKT CMRR_OLD   VI  VO  VX GNDF PARAMS: CMRR = 130 FCMRR = 1.6K
.PARAM PI = 3.141592
.PARAM RCMRR = 1
.PARAM GCMRR = {PWR(10,-CMRR/20)/RCMRR}
.PARAM LCMRR = {RCMRR/(2*PI*FCMRR)}
G1  GNDF 1 VX GNDF {GCMRR}
R1  1 2 {RCMRR}
L1  2 GNDF {LCMRR}
E1  VI VO 1 GNDF 1
.ENDS

.SUBCKT CMRR_NEW   VI  VO VX GNDF PARAMS: CMRR = 130 FCMRR = 1.6K
.PARAM PI = 3.141592
.PARAM RCMRR = 1
.PARAM GCMRR = {PWR(10,-CMRR/20)/RCMRR}
.PARAM LCMRR = {RCMRR/(2*PI*FCMRR)}
G1  GNDF 1 VX GNDF {GCMRR}
R1  1 2 {RCMRR}
L1  2 GNDF {LCMRR}

EA  101 GNDF 1 GNDF 1
GRA  101 102 VALUE = {V(101,102)/1e6}
CA  102 GNDF 1e3
EB  1 1a VALUE = {V(102,GNDF)}

E1  VI VO 1a GNDF 1
.ENDS

.SUBCKT DLS 1 2 VDD_OLD VSS_OLD VDD_NEW VSS_NEW
E1 3 0 VALUE = { IF( V(1) < (V(VDD_OLD)+V(VSS_OLD))/2, V(VSS_NEW), V(VDD_NEW) ) }
R1 3 2 1
C1 2 0 1p
.ENDS

.SUBCKT DLSINV 1 2 VDD_OLD VSS_OLD VDD_NEW VSS_NEW
E1 3 0 VALUE = { IF( V(1) > (V(VDD_OLD)+V(VSS_OLD))/2, V(VSS_NEW), V(VDD_NEW) ) }
R1 3 2 1
C1 2 0 1p
.ENDS

.SUBCKT SWITCH_IDEAL A B C PARAMS:
+ Ron  = 100m
+ Roff = 0.1G

G1 A B VALUE = { V(A,B) * 1 / ( Roff/2 * TANH( 0 - ( 20*V(C) - 5 ) ) + Roff/2 + Ron )  }
R1 A 0 1000G
R2 B 0 1000G
.ENDS

.MODEL VINRANGE_DIDEAL         D N=1m
.MODEL RECOVERYCIRCUIT_DIDEAL  D N=1m 

.MODEL OUTPUTCIR_ISC_DIDEAL    D N=0.1m
.MODEL OUTPUTCIR_VOHVOL_DIDEAL D N=1m 
.MODEL DBASIC D

